US07423158B2
Preparation of 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-hydroxycyclobutyl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A methanolic solution of 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-[3-(3-oxocyclobutyl)phenyl]-3,5-dihydro-4H-imidazol-4-one (0.324 gm, 0.811 mmol) at ice bath temperatures was treated all at once with NaBH4 (0.042 gm, 1.11 mmol), stirred at 0° C. for 45 minutes and concentrated in vacuo. The solid residue was partitioned between water and chloroform. The organic phase was separated, dried over sodium sulfate and evaporated to a foam. This foam was dissolved in chloroform and precipitated with hexane to give the title compound as a white solid, 0.307 g (94% yield), mp 186-190° C.; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.70-1.86 (m, 2 H) 2.53-2.60 (m, 2 H) 2.70-2.85 (m, 1 H) 2.97 (s, 3 H) 3.89-4.08 (m, 1 H) 5.08 (t, J=5.2 Hz, 1 H) 6.69 (s, 2 H) 7.10 (d, J=8.6 Hz, 3 H) 7.17 (t, J=74.2 Hz, 1 H) 7.19-7.33 (m, 3 H) 7.45 (d, J=8.8 Hz, 2 H); MS (ES) m/z 400.2 [M−H]−; HRMS: calcd for C21H21F2N3O3+H+, 402.16237. found (ESI, [M+H]+), 402.1630.

reactant | 2-amino-5-[4-(difluoromethoxy)phenyl]-3-methyl-5-[3-(3-oxocyclobutyl)phenyl]-3,5-dihydro-4H-imidazol-4-one | 0.811 mmol, 0.324 gm | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C1CC(C1)=O)C1=CC=C(C=C1)OC(F)F | C21H19F2N3O3
reactant | NaBH4 | 1.11 mmol, 0.042 gm | [BH4-].[Na+]
product | 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-hydroxycyclobutyl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 94% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C1CC(C1)O)C1=CC=C(C=C1)OC(F)F | C21H21F2N3O3
